US07238716B2
To a mixture of 4-[2-(4-chloromethyl-2-thiazolyl)ethyl]-5-methyl-2-phenyloxazole (0.64 g), methyl 2-(3-hydroxyphenyl)acetate (0.30 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60%, oil, 0.09 g) under ice-cooling, and the mixture was stirred at room temperature for 15 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water, 2N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetate as a colorless oil (0.31 g, 38%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | 4-[2-(4-chloromethyl-2-thiazolyl)ethyl]-5-methyl-2-phenyloxazole | 0.64 g | ClCC=1N=C(SC1)CCC=1N=C(OC1C)C1=CC=CC=C1 | C16H15ClN2OS
reactant | methyl 2-(3-hydroxyphenyl)acetate | 0.30 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.09 g | [H-].[Na+]
solvent | water | O | H2O
product | methyl 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetate | 0.31 g, 38% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC=1SC=C(N1)COC=1C=C(C=CC1)CC(=O)OC | C25H24N2O4S
